US08735414B2
A mixture of 5-fluoro-6-methyl-1H-indole-3-carbonitrile (1.0 g, 5.8 mmol), cyclobutylbromide (0.81 mL, 8.6 mmol) and cesium carbonate (3.9 g, 12.1 mmol) in DMF (10 mL) was stirred at 90° C. overnight. The mixture was then poured into ice water and extracted with ethyl acetate. The organics were combined and washed with water, brine and dried over Na2SO4 and evaporated. The residue was purified by flash chromatography with 5-35% ethyl acetate in hexane to give 1-cyclobutyl-5-fluoro-6-methyl-1H-indole-3-carbonitrile (1.2 g, 92%). 1H NMR (500 MHz, CDCl3): 7.68 (1H, s), 7.35 (1H, d, J=9.6 Hz), 7.17 (1H, d, J=6.1 Hz), 4.83-4.79 (1H, m), 2.68-2.60 (2H, m), 2.48-2.37 (5H, m), 2.05-1.96 (2H, m).

reactant | 5-fluoro-6-methyl-1H-indole-3-carbonitrile | 5.8 mmol, 1.0 g | FC=1C=C2C(=CNC2=CC1C)C#N | C10H7FN2
reactant | cyclobutylbromide | 8.6 mmol, 0.81 mL | C1(CCC1)Br | C4H7Br
reactant | cesium carbonate | 12.1 mmol, 3.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-cyclobutyl-5-fluoro-6-methyl-1H-indole-3-carbonitrile | 1.2 g, 92% | C1(CCC1)N1C=C(C2=CC(=C(C=C12)C)F)C#N | C14H13FN2
